Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain 
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Ms ___ is a pleasant ___ year old female with a distant 
history of open cholecystectomy, more recent stone pancreatitis 
in ___ s/p ERCP with stone removal and prolonged hospital 
course due to difficulty advancing diet, obesity s/p lap band 
___ with removal ___ who presented to ___ after sudden 
onset RUQ abdominal pain today. She notes that around 11AM she 
had sudden onset of RUQ pain radiating around her flank, 
initially thought it was heartburn however then became worse and 
radiating to RUQ, similar to pain she experienced with prior CBD 
obstruction. The pain has persisted and is associated with some 
nausea/dizziness. Since her hospitalization for pancreatitis, 
she has done very well without any abdominal pain or dietary 
triggers. She has no fevers or chills. No yellowing of the skin. 
Workup at ___ notable for nl LFTs, lipase, WBC 11.8. RUQ 
US showed CBD 1-1.2 cm, MRCP with CBD sone. She was treated with 
dilaudid x2, 1 L NS, Ativan and transferred for ERCP. 

In the ED, initial vitals were: 96.9 69 120/64 18 99% RA. She 
was treated with 1 L NS and dilaudid. 

On the floor, c/o ___ RUQ abd pain radiating to back, no 
CP/SOB, diarrhea, fevers, recent wt loss. No dysuria. + 
constipation, no BM since sun. 

Review of systems: 
(+) Per HPI 
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies vomiting, diarrhea. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. 10 pt ros otherwise negative. 
 
Past Medical History:
 (per chart, confirmed with pt): 
- bipolar, anxiety, depression 
-hypothyroidism 
-LBP, currently well contolled 
- Hysterectomy 
- placement and removal of lap band 
- CCY 
 
Social History:
___
Family History:
(per chart, confirmed with pt): Heart disease, DM (mom and dad), 
mom/GM with RA 

 
Physical Exam:
ADMISSION
Vitals: 98.0 
PO 133 / 81 74 16 97 RA 
Constitutional: Alert, oriented, no acute distress 
EYES: Sclera anicteric, EOMI, PERRL 
ENT: MMM, oropharynx clear 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops 
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi 
GI: Soft, TTP in RUQ, well healed surgical scars, non-distended, 
bowel sounds present, no organomegaly, no rebound or guarding 
GU: No foley 
EXT: Warm, well perfused, no CCE 
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions 

DISCHARGE
VS: 98.0 PO 115 / 79 61 18 96 Ra 
Gen: sitting up in chair, comfortable appearing
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft, nontender, mild distension, negative murphys; no 
rebound/guarding; normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 07:00AM BLOOD WBC-7.8 RBC-4.05 Hgb-12.0 Hct-35.0 MCV-86 
MCH-29.6 MCHC-34.3 RDW-12.9 RDWSD-40.7 Plt ___
___ 07:00AM BLOOD Glucose-89 UreaN-9 Creat-0.5 Na-141 K-3.9 
Cl-103 HCO3-29 AnGap-13

DISCHARGE
___ 06:15AM BLOOD WBC-9.4 RBC-4.02 Hgb-12.1 Hct-35.1 MCV-87 
MCH-30.1 MCHC-34.5 RDW-12.7 RDWSD-40.2 Plt ___
___ 06:15AM BLOOD Glucose-98 UreaN-9 Creat-0.5 Na-142 K-4.0 
Cl-102 HCO3-25 AnGap-19
___ 06:15AM BLOOD ALT-19 AST-18 AlkPhos-90 TotBili-0.4

STUDIES: 
Abd US (___) 1. In a postcholecystectomy patient common duct 
1 to 1.1 cm may not be abnormal. However, given the patient's 
clinical symptoms the fact that she's had prior pancreatitis 
with similar symptoms and stones in the common duct may require 
MRCP for further evaluation. 

MRCP 
1. ___uct dilatation. Distal 5 x ___uct 
biliary 
calculus is confirmed on this exam. 
2. Prior cholecystectomy. No other abnormality noted. 

ERCP ___
The scout film was normal.
•Evidence of a previous sphincterotomy was noted in the major 
papilla 
•The bile duct was deeply cannulated with the sphincterotome. 
•The sphincterotome was exchanged for a balloon. 
•Contrast medium was injected resulting in complete 
opacification. The procedure was not difficult.
•Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
•The CBD was 10mm in diameter. 
•A filling defect consistent with a stone was identified in the 
CBD.
•The left and right hepatic ducts and all intrahepatic branches 
were normal. 
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation. 
•A stone was removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically
•Otherwise normal ercp to third part of the duodenum

 
Brief Hospital Course:
This is a ___ year old female with past medical history of remote 
open cholecystectomy, recent admission ___ at ___ 
for gallstone pancreatitis requiring ERCP with sphincterotomy 
and balloon extraction of stone, admitted ___ with acute 
RUQ abd pain, found to have choledocholithiasis with 
obstruction, status post ERCP and stone extraction, subsequently 
able to advance diet and tolerate regular diet, discharged home

# Choledocholithiasis with obstruction - Patient presented with 
1 day of worsening abdominal pain, found to have normal LFTs at 
___, but MRCP demonstrated common bile duct stone with 
obstruction.  She was transferred to ___, where she did not 
demonstrate evidence of cholangitis.  Patient underwent 
uncomplicated ERCP with CBD stone extraction.   Patient was 
subsequently pain free and able to advance diet to regular food 
over the course of the subsequent 24 hours.  Patient was started 
on ursodiol to reduce risk of recurrent stones.  Able to be 
discharged home without issue.

# Bipoloar disorder - Continued lamotrigine

# Hypothyroidism - continued levothyroxine, trazodone

# Insomnia - continued home qHS HydrOXYzine 

Transitional Issues
- Discharged home
- Started on ursodiol to reduce the risk of recurrent gallstones
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 150 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Diazepam 5 mg PO DAILY:PRN back spasm/anxiety 
5. HydrOXYzine 75 mg PO QHS 
6. TraZODone 300 mg PO QHS 
7. biotin 5 mg oral DAILY 

 
Discharge Medications:
1.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*0 
2.  biotin 5 mg oral DAILY  
3.  Diazepam 5 mg PO DAILY:PRN back spasm/anxiety  
4.  HydrOXYzine 75 mg PO QHS  
5.  LamoTRIgine 150 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  TraZODone 300 mg PO QHS  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Choledocholithiasis with obstruction 
# Bipoloar disorder
# Hypothyroidism
# Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and were found to have a gallstone in your 
bile duct.  You were seen by GI specialists and underwent a 
special endoscopy ("ERCP").  The stone was removed.  Your pain 
improved and you are now ready for discharge home.

The GI specialists recommend that you start a new medication 
called "ursodiol" to decrease the risk of developing stones in 
the future.
 
Followup Instructions:
___